US07449475B2
N-Cyclopropyl-4-fluoro-2-hydroxybenzamide
A suspension of methyl 4-fluoro-2-hydroxybenzoate (510 mg, 3.0 mmol) in cyclopropylamine (5 mL) was stirred at room temperature overnight when it became a clear solution. The volatiles were removed in vacuo and the residue was purified by silica gel flash chromatography (0-30% ethyl acetate in petroleum ether) to give the subtitled compound (493 mg).

reactant | methyl 4-fluoro-2-hydroxybenzoate | 3.0 mmol, 510 mg | FC1=CC(=C(C(=O)OC)C=C1)O | C8H7FO3
reactant | cyclopropylamine | 5 mL | C1(CC1)N | C3H7N
product | N-Cyclopropyl-4-fluoro-2-hydroxybenzamide | 493 mg | C1(CC1)NC(C1=C(C=C(C=C1)F)O)=O | C10H10FNO2
